US09359367B2
Step 1: (S)-ethyl 6-(8,8-dimethyl-6,10-dioxaspiro[4.5]decane-2-carboxamido)spiro[2.5]oct-5-ene-5-carboxylate
To a stirred solution of (S)-8,8-dimethyl-6,10-dioxaspiro[4.5]decane-2-carboxylic acid (1.5 g, 7.0 mmol) and NMM (1.15 ml, 10.50 mmol) in acetonitrile (35 ml), isobutyl chloroformate (1 ml, 7.70 mmol) was added drop wise at −5 to −10° C. After 1 h, a solution of ethyl 6-aminospiro[2.5]oct-5-ene-5-carboxylate (3.42 g, 17.50 mmol) in acetonitrile (15 ml) was added and the reaction was allowed to stir at 0° C. to −5° C. for 1 h followed by stirring overnight at 25-30° C. Upon completion, the reaction mixture was quenched by addition of water (10 ml). Organic solvent was removed under reduced pressure and the residue was diluted with ethyl acetate (50 ml) and 10% sodium bicarbonate (25 ml). The organic mass was extracted using ethyl acetate (3×50 ml). Combined organic layer was dried over sodium sulfate and concentrated under reduced pressure to afford a crude solid, which was purified by column chromatography over silica gel using ethyl acetate in hexane as eluents to obtain the title compound (1.55 g, 56.6%).

reactant | (S)-8,8-dimethyl-6,10-dioxaspiro[4.5]decane-2-carboxylic acid | 7.0 mmol, 1.5 g | CC1(COC2(CC[C@@H](C2)C(=O)O)OC1)C | C11H18O4
reactant | NMM | 10.50 mmol, 1.15 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 7.70 mmol, 1 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ethyl 6-aminospiro[2.5]oct-5-ene-5-carboxylate | 17.50 mmol, 3.42 g | NC1=C(CC2(CC2)CC1)C(=O)OCC | C11H17NO2
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | (S)-ethyl 6-(8,8-dimethyl-6,10-dioxaspiro[4.5]decane-2-carboxamido)spiro[2.5]oct-5-ene-5-carboxylate | 1.55 g, 56.6% | CC1(COC2(CC[C@@H](C2)C(=O)NC2=C(CC3(CC3)CC2)C(=O)OCC)OC1)C | C22H33NO5
